data/oMe_Silver.jsonl
{"reaction_id": "NR-001_1-c1ccccc1_2-CN(C)c1ccccc1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(c1ccccc1)(CN(C)c1ccccc1)C=O","C(c1ccccc1)(CN(C)c1ccccc1)C=O"],"products_smiles": ["C(c1ccccc1)(CN(C)c1ccccc1)C(O)C(c1ccccc1)(CN(C)c1ccccc1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(CN(C)c1ccccc1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(CN(C)c1ccccc1)C([O-])C(c1ccccc1)(CN(C)c1ccccc1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(CN(C)c1ccccc1)C(O)C(c1ccccc1)(CN(C)c1ccccc1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NR-139_1-CC(C)=C_2-c1ccccc1_3-C=CCCC_4-c1cscn1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1cscn1)(CC(C)=C)(c1ccccc1)(C=CCCC)"],"products_smiles": ["C(CC(C)=C)(c1ccccc1)(C=CCCC)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1cscn1)(CC(C)=C)(c1ccccc1)(C=CCCC)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](CC(C)=C)(c1ccccc1)(C=CCCC)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(CC(C)=C)(c1ccccc1)(C=CCCC)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
{"reaction_id": "NR-326_1-c1ccccc1_2-CC","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(c1ccccc1)(=O)C(=[N+]=[N-])CC"],"products_smiles": ["O=C=C(CC)c1ccccc1"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(=O)[C]CC","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(CC)c1ccccc1","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of c1ccccc1 to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
